.title kicad schematic

.include LM1558.sub
r4 net-_r4-pad1_ vout 10k
v2 net-_x1-pad7_ gnd  dc 5
* u2 vout plot_v1
r1 gnd net-_r1-pad2_ 10k
vv1 vin gnd sin(2.5 1 1k)
x1 unconnected-_x1-pad1_ net-_r4-pad1_ vin gnd net-_r1-pad2_ vout net-_x1-pad7_ unconnected-_x1-pad8_ LM1558
* u1 vin plot_v1
.tran 1e-06 5e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(vin)
.endc
.end
